US04920133
A mixture of methyl 3-(4-hydroxybenzyl)benzoate (0.08 mol), 2-chloromethylquinoline (0.10 mol) and potassium carbonate (anhydrous, 0.10 mol) are heated at reflux in a 7:1 mixture of acetone:dimethylformamide (600 ml) until all the benzoate starting material is consumed. The reaction is then filtered, evaporated and the residue diluted with water and extracted with ethyl acetate. The ethyl acetate extracts are dried (magnesium sulfate), evaporated and then applied to a silica gel column. Elution with ethyl acetate:petroleum ether gives methyl 3-(4-(2-quinolinylmethyloxy)benzyl)benzoate.

reactant | methyl 3-(4-hydroxybenzyl)benzoate | 0.08 mol | OC1=CC=C(CC=2C=C(C(=O)OC)C=CC2)C=C1 | C15H14O3
reactant | 2-chloromethylquinoline | 0.10 mol | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | potassium carbonate | 0.10 mol | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | methyl 3-(4-(2-quinolinylmethyloxy)benzyl)benzoate | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CC=2C=C(C(=O)OC)C=CC2)C=C1 | C25H21NO3
